US06756498B2
i) 1-(3-Chloro-4-fluorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone Oxime
A reaction vessel was charged with sodium hydride (as a 60% oil dispersion, 7.2 g, 180 mmol), DME (60 ml) and 2-chloro-5-trifluoromethylpyridine (10 g, 55.1 mmol). 3-Chloro-4-fluoroacetophenone (9.8 g, 56.9 mmol) in DME (20 ml) was added in portions to the mixture under nitrogen at room temperature. The mixture was stirred at ambient temperature for one hour then at 40-45° C. overnight. Upon the completion of the reaction, the mixture was cooled to 5° C. and 10% aqueous sodium hydroxide solution (30 ml) was slowly added to the reaction mixture followed by methanol (60 ml) then hydroxylamine hydrochloride (19.1 g, 357 mmol). The mixture was heated to 72° C. for 4 hours then cooled and diluted with water (1500 ml) with stirring. The resulting solid was removed by filtration and dried under vacuum. It was then slurried in cyclohexane (100 ml) then filtered, washing with further cyclohexane. The crude solid was purified by dissolution in diethylether (50 ml) and passage through silica gel, washing with further diethylether. Concentration of the filtrate afforded 15.56 g (85%) of the title compound.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-5-trifluoromethylpyridine | 55.1 mmol, 10 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | 3-Chloro-4-fluoroacetophenone | 56.9 mmol, 9.8 g | CC(=O)C1=CC(=C(C=C1)F)Cl | C8H6ClFO
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 357 mmol, 19.1 g | Cl.NO
solvent | DME | 20 ml | COCCOC | C4H10O2
solvent | water | 1500 ml | O | H2O
solvent | DME | 60 ml | COCCOC | C4H10O2
solvent | methanol | 60 ml | CO | CH4O
product | 1-(3-Chloro-4-fluorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone Oxime | 15.56 g, 85% | ClC=1C=C(C=CC1F)C(CC1=NC=C(C=C1)C(F)(F)F)=NO | C14H9ClF4N2O
